US07612114B2
6-{2-{2-Hydroxyethyl{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
To a solution of pivalic acid 6-{4-methoxy-2-{2-[4-(2-piperidin-1-ylethoxy)phenyl]acetylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (30 mg) in tetrahydrofuran (1 ml) was added 60% sodium hydride (2.2 mg), the solution was stirred for 30 minutes at room temperature, then bromoethyl acetate (6.1 μl) was added thereto followed by stirring for 1 hour. To the reaction solution was added a saturated aqueous solution of ammonium chloride, the solution was extracted with chloroform, and concentrated in vacuo. The residue was subjected to the synthetic method of Example 337 described above to provide the title compound (14 mg).

reactant | pivalic acid 6-{4-methoxy-2-{2-[4-(2-piperidin-1-ylethoxy)phenyl]acetylamino}phenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 30 mg | COC1=CC(=C(C=C1)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)NC(CC1=CC=C(C=C1)OCCN1CCCCC1)=O | C37H46N2O5
reactant | sodium hydride | 2.2 mg | [H-].[Na+]
reactant | bromoethyl acetate | 6.1 μl | C(C)(=O)OCCBr | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 6-{2-{2-Hydroxyethyl{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 14 mg | OCCN(C1=C(C=CC(=C1)OC)C1CC=2C=CC(=CC2CC1)O)CCC1=CC=C(C=C1)OCCN1CCCCC1 | C34H44N2O4
